US06180622B2
2-(t-Butyldimethylsilyloxy)ethyl trifluoromethanesulfonate (20.9 mg) is added to a solution of 32.3 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate described in Example 23-a) in 0.5 ml of dry dichloroethane, and the mixture is stirred in an argon atmosphere at room temperature for 2 hr. The excess reagent is removed by evaporation under reduced pressure to give allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-(2-t-butyldimethylsilyloxyethyl)imidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate trifluoromethanesulfonate as a brown viscous material.

reactant | 2-(t-Butyldimethylsilyloxy)ethyl trifluoromethanesulfonate | 20.9 mg | FC(S(=O)(=O)OCCO[Si](C)(C)C(C)(C)C)(F)F | C9H19F3O4SSi
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 32.3 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=CN2C(S1)=CN=C2)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O6S2
solvent | dichloroethane | 0.5 ml | ClC(C)Cl | C2H4Cl2
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[6-(2-t-butyldimethylsilyloxyethyl)imidazo[5,1-b]thiazolium-2-yl]methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate trifluoromethanesulfonate | FC(S(=O)(=O)[O-])(F)F.C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=C[N+]=2C(S1)=CN(C2)CCO[Si](C)(C)C(C)(C)C)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C35H51N4O7S2Si.CHF3O3S/c1-10-13-44-33(42)30-31(22(3)29-28(23(4)40)32(41)39(29)30)48-26-17-24(38(19-26)34(43)45-14-11-2)16-25-18-37-21-36(20-27(37)47-25)12-15-46-49(8,9)35(5,6)7;2-1(3,4)8(5,6)7/h10-11,18,20-24,26,28-29,40H,1-2,12-17,19H2,3-9H3;(H,5,6,7)/q+1;/p-1/t22-,23-,24-,26+,28-,29-;/m1./s1
